US08026234B2
Compound 19: 9-cyclopentyl-7,7-difluoro-5-methyl-2-(2-oxoindolin-6-ylamino)-8,9-dihydro-5H-pyrimido[4,5-b][1,4]diazepin-6(7H)-one
The title compound was synthesized using an analogous procedure to that described in connection with 4-(9-Cyclopentyl-7,7-difluoro-5-methyl-6-oxo-6,7,8,9-tetrahydro-5H-pyrimido[5,4-b][1,4]diazepin-2-ylamino)-3-methoxybenzoic acid from 2-Chloro-9-cyclopentyl-7,7-difluoro-5-methyl-8,9-dihydro-5H-pyrimido[5,4-b][1,4]diazepin-6(7H)-one and 6-aminoindolin-2-one. 1H NMR (400 MHz, CHLOROFORM-d) δ ppm 1.45-1.86 (m, 6H) 1.92-2.16 (m, 2H) 3.39 (s, 3H) 3.54 (s, 2H) 3.87 (t, J=13.39 Hz, 2H) 4.74 (quin, J=8.27 Hz, 1H) 6.81 (d, J=8.34 Hz, 1H) 7.00 (br. s., 1H) 7.26 (s, 1H) 7.50 (br. s., 1H) 7.58 (s, 1H) 7.97 (s, 1H). [M+H] calc'd for C21H22F2N6O2, 429. found 429.

reactant | 4-(9-Cyclopentyl-7,7-difluoro-5-methyl-6-oxo-6,7,8,9-tetrahydro-5H-pyrimido[5,4-b][1,4]diazepin-2-ylamino)-3-methoxybenzoic acid | C1(CCCC1)N1C2=C(N(C(C(C1)(F)F)=O)C)C=NC(=N2)NC2=C(C=C(C(=O)O)C=C2)OC | C21H23F2N5O4
reactant | 2-Chloro-9-cyclopentyl-7,7-difluoro-5-methyl-8,9-dihydro-5H-pyrimido[5,4-b][1,4]diazepin-6(7H)-one | ClC=1N=CC=2N(C(C(CN(C2N1)C1CCCC1)(F)F)=O)C | C13H15ClF2N4O
reactant | 6-aminoindolin-2-one | NC1=CC=C2CC(NC2=C1)=O | C8H8N2O
product | 9-cyclopentyl-7,7-difluoro-5-methyl-2-(2-oxoindolin-6-ylamino)-8,9-dihydro-5H-pyrimido[4,5-b][1,4]diazepin-6(7H)-one | C1(CCCC1)N1C2=C(N(C(C(C1)(F)F)=O)C)C=NC(=N2)NC2=CC=C1CC(NC1=C2)=O | C21H22F2N6O2
